US06706855B1
Stage (a) Preparation of N-acetylhexylendiamine
Hexamethylenediamine (90.64 g; 0.6 mol) and acetamide (11.81 g; 0.2 Mol) were stirred and refluxed for 10 hours under nitrogen. The solution was cooled overnight and then distilled under vacuum <100° C. as fast as possible. The N-acetylhexylenediamine was then separated from the resultant mixture by flash chromatography [SiO2/EtOH:25%aq.NH3 (4:1)]. The title product was obtained as a white crystalline product (18.43 g; 58% theory).

reactant | Hexamethylenediamine | 0.6 mol, 90.64 g | NCCCCCCN | C6H16N2
reactant | acetamide | 0.2 Mol, 11.81 g | C(C)(=O)N | C2H5NO
product | N-acetylhexylendiamine | C(C)(=O)NCCCCCCN | C8H18N2O
